US07585535B2
Thiobutyric acid S-(1-phenyl-ethyl)ester:
At room temperature, 13.8 g of 1-mercapto-1-phenylethane is dissolved in 50 mL of butyryl chloride. The mixture is stirred at room temperature for 6 hours. It is then cooled down to 0° C. and the reaction is quenched by careful addition of 100 ml of dry methanol in small portions. The mixture is then washed with bicarbonate, dried over magnesium sulfate, filtered and concentrated to give the butyrated compound in 98% yield.

reactant | 1-mercapto-1-phenylethane | 13.8 g | SC(C)C1=CC=CC=C1 | C8H10S
reactant | butyryl chloride | 50 mL | C(CCC)(=O)Cl | C4H7ClO
product | Thiobutyric acid S-(1-phenyl-ethyl)ester | 98% yield | C1(=CC=CC=C1)C(C)SC(CCC)=O | C12H16OS
